US06420566B2
The process is performed under the conditions of Example 1, starting with 2.4 g of N-(tert-butyl)-N′-[(1R)-2-hydroxy-1-phenylethyl]thiourea in 24 cm3 of aqueous 6N hydrochloric acid for 1 hour 30 minutes at a temperature in the region of 100° C. After cooling the medium to a temperature in the region of 0° C., the precipitate formed is filtered off and the filter cake is then washed with 7 cm3 of aqueous 6N hydrochloric acid and twice 15 cm3 of diethyl ether. The solid obtained is dried in an oven under reduced pressure (10 Pa) at a temperature in the region of 60° C. 1.6 g of (−)-(4R)-4-phenyl-4,5-dihydro-1,3-thiazol-2-ylamine hydrochloride are obtained in the form of a white solid melting at 260° C. (αd20=−109.6±1.3 at a concentration of 1% in methanol).

reactant | N-(tert-butyl)-N′-[(1R)-2-hydroxy-1-phenylethyl]thiourea | 2.4 g | C(C)(C)(C)NC(=S)N[C@@H](CO)C1=CC=CC=C1 | C13H20N2OS
reactant | hydrochloric acid | 6N | Cl | ClH
product | (−)-(4R)-4-phenyl-4,5-dihydro-1,3-thiazol-2-ylamine hydrochloride | 1.6 g | Cl.C1(=CC=CC=C1)[C@H]1N=C(SC1)N | InChI=1S/C9H10N2S.ClH/c10-9-11-8(6-12-9)7-4-2-1-3-5-7;/h1-5,8H,6H2,(H2,10,11);1H/t8-;/m0./s1
